US08703793B2
4-Methoxy-3-oxo-pentanoic acid ethyl ester
89 g ethyl potassium malonate are dissolved in 700 ml acetonitrile. While being stirred 109 ml triethylamine and 60 g magnesium chloride are added and the mixture is stirred for 2 hours. Then a solution of 1-imidazol-1-yl-2-methoxy-propan-1-one in 150 ml acetonitrile, prepared by mixing 27 g 2-methoxypropionic acid and 48 g carbonyldiimidazol in acetonitrile and stirring for 12 hours, is added and stirring is continued for 12 hours. 1 l of a 13% solution of hydrochloric acid is added while keeping the temperature below 25° C. and the mixture is stirred for 10 minutes. The phases are separated and the aqueous phase is extracted three times with ethylacetate. The combined organic phases are washed with saturated aqueous sodium bicarbonate and brine. After drying with magnesium sulphate the solvents are evaporated. The crude product is used directly in the next step.

reactant | ethyl potassium malonate | 89 g | C(CC(=O)O)(=O)O.C(C)[K]
reactant | magnesium chloride | 60 g | [Cl-].[Mg+2].[Cl-]
reactant | 1-imidazol-1-yl-2-methoxy-propan-1-one | N1(C=NC=C1)C(C(C)OC)=O | C7H10N2O2
reactant | 2-methoxypropionic acid | 27 g | COC(C(=O)O)C | C4H8O3
reactant | carbonyldiimidazol | 48 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 700 ml | C(C)#N | C2H3N
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | triethylamine | 109 ml | C(C)N(CC)CC | C6H15N
product | 4-Methoxy-3-oxo-pentanoic acid ethyl ester | C(C)OC(CC(C(C)OC)=O)=O | C8H14O4
